US08053438B2
4-(3-(4-(1H-BENZO[D]IMIDAZOLE-2-CARBONYL)PHENOXY)PYRAZIN-2-YL)-1-METHYL-5,6-DIHYDROPYRIDIN-2(1H)-ONE
1-Methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridin-2(1H)-one (0.365 g, 1.539 mmol), (1H-benzo[d]imidazol-2-yl)(4-(3-chloropyrazin-2-yloxy)phenyl)methanone (0.540 g, 1.539 mmol), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (0.076 g, 0.108 mmol), potassium acetate (0.453 g, 4.62 mmol), and 9:1 dioxane-H2O (7.5 mL) were combined in a sealed tube and heated at 100° C. for 3 h. The cooled reaction was diluted with CH2Cl2 and washed with water; the aqueous layer was back-extracted with CH2Cl2 (1×). The organic extracts were combined, dried (MgSO4), filtered, and concentrated in vacuo. Flash column chromatography (1% to 5% MeOH/CH2Cl2) provided a crude crop of the desired product. Further trituration with MeOH afforded 4-(3-(4-(1H-benzo[d]imidazole-2-carbonyl)phenoxy)pyrazin-2-yl)-1-methyl-5,6-dihydropyridin-2(1H)-one as a yellow amorphous solid. [M+1]=426.8. IC50 (uM) +++++.

reactant | 1-Methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridin-2(1H)-one | 1.539 mmol, 0.365 g | CN1C(C=C(CC1)B1OC(C(O1)(C)C)(C)C)=O | C12H20BNO3
reactant | (1H-benzo[d]imidazol-2-yl)(4-(3-chloropyrazin-2-yloxy)phenyl)methanone | 1.539 mmol, 0.540 g | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2Cl | C18H11ClN4O2
reactant | potassium acetate | 4.62 mmol, 0.453 g | C(C)(=O)[O-].[K+]
reactant | dioxane H2O | 7.5 mL | O1CCOCC1.O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.108 mmol, 0.076 g | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | 4-(3-(4-(1H-BENZO[D]IMIDAZOLE-2-CARBONYL)PHENOXY)PYRAZIN-2-YL)-1-METHYL-5,6-DIHYDROPYRIDIN-2(1H)-ONE | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(OC=1C(=NC=CN1)C1=CC(N(CC1)C)=O)C=C2 | C24H19N5O3
